US06011044
Preparation of 1-(2-methoxyphenyl)-4-methylamino-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methoxyphenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(598 mg, 1.5 mmol) was dissolved in aqueous solution of methylamine(40%, 5.0 ml) in the pressure tube, and the resultant was refluxed at 180° C. for 15 hours. The reaction mixture was dissolved in water, extracted with dichloromethane, and the organic layer was washed with water for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:1) to obtain 312 mg of desired compound as solid in 53% of yield.

reactant | 1-(2-Methoxyphenyl)-4-chloro-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.5 mmol, 598 mg | COC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)Cl | C20H16ClF3N2O2
reactant | methylamine | 5.0 ml | CN | CH5N
solvent | water | O | H2O
product | 1-(2-methoxyphenyl)-4-methylamino-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 312 mg | COC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NC | C21H20F3N3O2
